US06586620B1
Preparation of 1-Pentyl-2-oxabicyclo[3.3.0]octan-3,8-dione
A 2000 ml three-necked round-bottom flask, equipped with a magnetic stirrer, nitrogen device, thermometer, dropping funnel and a reflux condenser was charged with 591.0 g of crude methyl 3-acetoxy-2-pentyl-2-cyclopentene-1-acetate and 70 g of toluene. At 26° C. 386.9 g (2.04 mol) 40% peracetic acid were added dropwise over a 5.3 h period. Stirring was continued for 2 h. 22.0 g (0.12 mol) of 40% peracetic acid were added over 30 min, and stirring was continued for another 2 h. 350 g of water were added and the water-layer (590.4 g) was separated. Three more washes were made with each 350 ml of water. The organic phase (1273.9 g) was evaporated to give 437.8 g of crude product which was vacuum distilled (0.4 hPa) to furnish 2 fractions, of which the first one (Bp=90-144° C.) was 172.55 g, containing 26.5% of product and the second one was 187.6 g, containing 95% of lactone. 1H-NMR: 0.88 (br t, J=6.7 Hz, Me); 1.15-1.45 (m, 6H); 1.67-1.87 (m, 3H); 2.14-2.63 of overlapping m, 4H); 2.84-2.97 (m, 2H). 13C-NMR: 13.9 (Me), 22.4, 22.6, 25.0, 31.9, 33.0, 35.7, 35.8 (CH2), 38.6 (CH), 89.0 (C), 175.0 (CO2), 210.9 (CO). MS: M+=210 (5): 154 (16), 139 (22), 112 (25), 111 (73), 99 (79), 98 (100), 83 (26), 71 (26), 55 (73), 43 (28).

reactant | methyl 3-acetoxy-2-pentyl-2-cyclopentene-1-acetate | 591.0 g | C(C)(=O)OC1=C(C(CC1)CC(=O)OC)CCCCC | C15H24O4
reactant | toluene | 70 g | C1(=CC=CC=C1)C | C7H8
reactant | peracetic acid | 2.04 mol, 386.9 g | C(C)(=O)OO | C2H4O3
reactant | peracetic acid | 0.12 mol, 22.0 g | C(C)(=O)OO | C2H4O3
solvent | water | 350 g | O | H2O
product | 1-Pentyl-2-oxabicyclo[3.3.0]octan-3,8-dione | 437.8 g | C(CCCC)C12OC(CC2CCC1=O)=O | C12H18O3
